US08022223B2
N-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(piperidin-4-yl)-1,2,4-thiadiazol-5-amine trihydrochloride
Tert-butyl 4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate (0.587 g, 1.04 mmol) was dissolved in 1:1 CH2Cl2/methanol and 4N HCl in dioxane added. The reaction was stirred at ambient temperature for 1 hour. The reaction was concentrated and dried in a vacuum oven to provide the title compound (0.473 g, 98.0% yield). 1H NMR (d6-DMSO) δ 12.39 (s, 1H), 8.95 (bs, 1H), 8.80 (bs, 1H), 8.39 (d, 1H), 8.37 (m, 1H), 7.67 (dt, 1H), 7.47 (d, 1H), 7.43 (t, 2H), 7.22-7.12 (m, 5H), 3.30 (d, 2H), 3.16-2.99 (m, 3H), 2.17 (d, 2H), 1.98 (m, 2H).

reactant | Tert-butyl 4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate | 1.04 mmol, 0.587 g | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)C1CCN(CC1)C(=O)OC(C)(C)C | C28H30N6O3S2
reactant | CH2Cl2 methanol | C(Cl)Cl.CO
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(piperidin-4-yl)-1,2,4-thiadiazol-5-amine trihydrochloride | 0.473 g, 98.0% yield | Cl.Cl.Cl.O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)C1CCNCC1 | InChI=1S/C23H22N6OS2.3ClH/c1-2-6-17(7-3-1)30-19-14-18(31-20-8-4-5-11-25-20)15-26-22(19)28-23-27-21(29-32-23)16-9-12-24-13-10-16;;;/h1-8,11,14-16,24H,9-10,12-13H2,(H,26,27,28,29);3*1H
